US09126988B2
Preparation of 4-hydroxy-5-methoxy-3 nitrobenzoic acid
A suspension of vanillic acid (68.8 kg) in acetic acid (720 kg) is cooled to 17° C. before an excess of a 65% nitric acid (44.0 kg) is added. After complete dosage of nitric acid the suspension is stirred for 2 hours. The suspension is filtered off and the wet cake is successively washed with acetic acid (80.0 kg), acetic acid/water (1:2 w/w—105 kg) and finally water (80 kg—if necessary repeat). The solid is dried at 52° C. for NMT 12 hours prior going to next step.

reactant | vanillic acid | 68.8 kg | C(C1=CC(OC)=C(O)C=C1)(=O)O | C8H8O4
reactant | nitric acid | 44.0 kg | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 720 kg | C(C)(=O)O | C2H4O2
product | 4-hydroxy-5-methoxy-3 nitrobenzoic acid | OC1=C(C=C(C(=O)O)C=C1OC)[N+](=O)[O-] | C8H7NO6
